.subckt rot 1 2
D1 1 2 led
.MODEL led D(Is=1.0e-12 N=3.0 Rs=9.0 Eg=2.17 Tnom=27deg)
.ends

.subckt gelb 1 2
D1 1 2 led
.MODEL led D(Is=1.0e-12 N=3.0 Rs=17.0 Eg=2.17 Tnom=27deg)
.ends

.subckt gruen 1 2
D1 1 2 led
.MODEL led D(Is=1.0e-12 N=3.4 Rs=9.0 Eg=2.17 Tnom=27deg)
.ends
